US08980911B2
To a solution of methyl 3,5-dichloro-4-({7-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[2,3-c]pyridin-3-yl}carbonyl)benzoate (100 mg, 2.31 mmol) in 1,4-dioxane and water (3:1), sodium borohydride (27 mg, 6.944 mmol) was added portion wise over a period of about 15 minutes, followed by heating the reaction mixture at 60° C. until starting material was consumed (approximately 3 hours) The reaction mixture was cooled to room temperature and quenched by the addition of saturated aq. ammonium chloride solution and extracted with ethyl acetate. Organic layer was separated, washed with brine, dried over sodium sulfate and concentrated under vacuum. Purification by silica gel (100-200) column chromatography using dichloromethane and methanol gradient as eluent afforded N-{3-[2,6-dichloro-4-(hydroxymethyl)benzoyl]-1H-pyrrolo[2,3-c]pyridin-7-yl}cyclopropane carboxamide (20 mg, 22%).

reactant | methyl 3,5-dichloro-4-({7-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[2,3-c]pyridin-3-yl}carbonyl)benzoate | 2.31 mmol, 100 mg | ClC=1C=C(C(=O)OC)C=C(C1C(=O)C1=CNC2=C(N=CC=C21)NC(=O)C2CC2)Cl | C20H15Cl2N3O4
reactant | sodium borohydride | 6.944 mmol, 27 mg | [BH4-].[Na+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | N-{3-[2,6-dichloro-4-(hydroxymethyl)benzoyl]-1H-pyrrolo[2,3-c]pyridin-7-yl}cyclopropane carboxamide | 20 mg, 22% | ClC1=C(C(=O)C2=CNC3=C(N=CC=C32)NC(=O)C3CC3)C(=CC(=C1)CO)Cl | C19H15Cl2N3O3
